US08957069B2
1-(5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methanamine
Hydrazine monohydrate (87 mg, 1.73 mmol) was added to a solution of ethanol (13 mL) containing 2-[(5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione (530 mg, 1.28 mmol) synthesized in Reference Example 129, and the mixture was stirred under heated reflux for 3 hours. The reaction solution was cooled to room temperature, and 6N hydrochloric acid (10 mL) was added thereto, followed by stirring under heated reflux for 1 hour. The reaction solution was cooled to room temperature, and then 1N sodium hydroxide aqueous solution was added thereto to become weakly basic, followed by extraction using diisopropyl ether. The organic layer was washed with saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by basic silica gel chromatography (hexane-ethyl acetate 80:20-0:100) to give 250 mg of the title compound (yield: 69%).

reactant | Hydrazine monohydrate | 1.73 mmol, 87 mg | O.NN
reactant | 2-[(5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione | 1.28 mmol, 530 mg | BrC=1C(=C(C2=C(CC(O2)(C)CN2C(C3=CC=CC=C3C2=O)=O)C1C)C)C | C21H20BrNO3
reactant | hydrochloric acid | 6N, 10 mL | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 13 mL | C(C)O | C2H6O
product | 1-(5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 250 mg, yield: 69% | BrC=1C(=C(C2=C(CC(O2)(C)CN)C1C)C)C | C13H18BrNO
